US07781610B2
Synthesis of Tricyclohexyltin Hydride
A mixture (400 mL) of diethyl oxide:water 1:1 was cooled at 0° C. under nitrogen in a three-necked flask of 1 L. Sodium borohydride (3 g, 79.4 mmol) and then tricyclohexyltin hydroxide (30 g, 62.2 mmol) were successively and carefully added. After addition of 100 mL of diethyl oxide, the mixture was stirred 2 days at room temperature. After separation, the organic layer was dried over magnesium sulphate and evaporated under reduced pressure. The crude product was distilled under high vacuum to afford, a colourless oil (23.23 g; 63 mmol).

reactant | diethyl oxide water | 400 mL | C(C)OCC.O
reactant | Sodium borohydride | 79.4 mmol, 3 g | [BH4-].[Na+]
reactant | tricyclohexyltin hydroxide | 62.2 mmol, 30 g | [OH-].C1(CCCCC1)[Sn+](C1CCCCC1)C1CCCCC1
solvent | diethyl oxide | 100 mL | C(C)OCC | C4H10O
product | Tricyclohexyltin Hydride | C1(CCCCC1)[SnH](C1CCCCC1)C1CCCCC1 | InChI=1S/3C6H11.Sn.H/c3*1-2-4-6-5-3-1;;/h3*1H,2-6H2;;
